US06352982B1
To a methanol (4 ml) solution of 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminophenyl) benzyl alcohol (0.4 g) were added trimethyl acetaldehyde (109 mg) and acetic acid (76 mg). The mixture was stirred for 10 minutes at room temperature, to which was added sodium cyano borohydride (79 mg). The mixture was stirred for one hour at room temperature, to which was added acetic acid ethyl ester (50 ml). The mixture was washed with water and dried over anhydrous MgSO4. The solvent was then distilled off, and the residue was purified by means of a silica gel column chromatography to give the object 5-chloro-α-(3-tert-butoxycarbonylaminophenyl)-2-neopentylaminobenzyl alcohol (0.43 g) as a colorless amorphous solid product.

reactant | methanol | 4 ml | CO | CH4O
reactant | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminophenyl) benzyl alcohol | 0.4 g | NC1=C(C(C2=CC(=CC=C2)NC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C18H21ClN2O3
reactant | trimethyl acetaldehyde | 109 mg | CC(C=O)(C)C | C5H10O
reactant | sodium cyano borohydride | 79 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid ethyl ester | 50 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid | 76 mg | C(C)(=O)O | C2H4O2
product | 5-chloro-α-(3-tert-butoxycarbonylaminophenyl)-2-neopentylaminobenzyl alcohol | 0.43 g | ClC=1C=CC(=C(C(C2=CC(=CC=C2)NC(=O)OC(C)(C)C)O)C1)NCC(C)(C)C | C23H31ClN2O3
